US07723333B2
tert-Butyl [1-(2-cyanoethyl)piperidin-4-yl]carbamate
3-Bromopropionitril (0.74 g, 5.49 mmol) was added to a solution of tert-butyl piperidin-4-ylcarbamate (1.00 g, 4.99 mmol) and TEA (0.56 g, 5.49 mmol) in MeCN (15 mL), and the mixture was heated at 60° C. for 5 h and then evaporated. The residue was purified by silica gel column chromatography (Horizons Biotage) using a 40:60 and then 15:85-10:90 mixture of heptane and EtOAc as eluant, to give the title compound (0.40 g, 32%). 1H NMR (500 MHz, CDCl3): δ 4.44 (br s, 1H), 3.54-3.42 (br m, 1H), 2.88-2.79 (m 2H), 2.69 (t, 2H), 2.51 (t 2H), 2.24-2.16 (m, 2H), 1.99-1.92 (m 2H), 1.47 (s 9H), 1.49-1.41 (m 2H); 13C NMR (125 MHz, CDCl3): δ 155.4, 119.0, 53.6, 52.2, 47.7, 32.7, 28.6, 16.4.

reactant | 3-Bromopropionitril | 5.49 mmol, 0.74 g | BrCCC#N | C3H4BrN
reactant | tert-butyl piperidin-4-ylcarbamate | 4.99 mmol, 1.00 g | N1CCC(CC1)NC(OC(C)(C)C)=O | C10H20N2O2
solvent | MeCN | 15 mL | CC#N | C2H3N
product | tert-Butyl [1-(2-cyanoethyl)piperidin-4-yl]carbamate | 0.40 g, 32% | C(#N)CCN1CCC(CC1)NC(OC(C)(C)C)=O | C13H23N3O2
